US07420001B2
To 3-methyl-benzofuran-2-carboxylic acid (500 mg, 2.84 mmol, 1 eq) in 5 mL of dichloromethane under argon was added 2,6-dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol (704 mg, 2.84 mmol, 1 eq.), 1,3-dicyclohexylcarbodiimide (1.17 g, 5.68 mmol, 2 eq.), and 4-(dimethylamino)pyridine (173 mg, 1.42 mmol, 0.5 eq.). The resulting mixture was stirred at room temperature for 6 h. The reaction was then diluted with water and extracted with ethyl acetate. The organics were washed with brine, dried over magnesium sulfate, filtered and concentrated in vacuo. The residue was purified using flash column chromatography on silica gel to provide 3-methyl-benzofuran-2-carboxylic acid 2,6-dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl ester in 28% yield. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.3 (s, 12 H) 2.2 (s, 6 H) 2.7 (s, 3 H) 7.4 (m, 1 H) 7.5 (s, 2 H) 7.6 (m, 1 H) 7.8 (d, J=8.3 Hz, 1 H) 7.9 (m, 1 H).

reactant | 3-methyl-benzofuran-2-carboxylic acid | 2.84 mmol, 500 mg, 1 eq | CC1=C(OC2=C1C=CC=C2)C(=O)O | C10H8O3
reactant | 2,6-dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenol | 2.84 mmol, 704 mg, 1 eq. | CC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)O | C14H21BO3
reactant | 1,3-dicyclohexylcarbodiimide | 5.68 mmol, 1.17 g, 2 eq. | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 1.42 mmol, 173 mg, 0.5 eq. | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 3-methyl-benzofuran-2-carboxylic acid 2,6-dimethyl-4-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl ester | 28% yield | CC1=C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)OC(=O)C=1OC2=C(C1C)C=CC=C2 | C24H27BO5
